US08217064B2
To a stirred solution of ethyl 2-(3-bromo-5-chloro-4-hydroxyphenyl)acetate (6.5 g, 22 mmol), in DMF (100 mL), K2CO3 (7.67 g, 55.6 mmol) was added. Trifluoroethyl iodide (13.16 mL, 133 mmol) was added in a drop wise manner to the reaction mixture at RT. The mixture was then heated at 60° C. for 4 h. After completion of reaction, the mixture was poured into water and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with water, dried over Na2SO4 and concentrated under reduced pressure. The crude compound was purified by column chromatography to give compound ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)acetate (6.5 g) as a white solid.

reactant | ethyl 2-(3-bromo-5-chloro-4-hydroxyphenyl)acetate | 22 mmol, 6.5 g | BrC=1C=C(C=C(C1O)Cl)CC(=O)OCC | C10H10BrClO3
reactant | K2CO3 | 55.6 mmol, 7.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Trifluoroethyl iodide | 133 mmol, 13.16 mL | FC(CI)(F)F | C2H2F3I
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)acetate | 6.5 g | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)CC(=O)OCC | C12H11BrClF3O3
